US04709044
A solution of 1.5 g (6.63 mmol) of 4-methyl-5-(5-carboxypentanoyl)-4-imidazolin-2-one in 30 ml of acetic acid was hydrogenated in a Parr shaker apparatus over 0.4 g of PtO2 at 3 atmospheres and ambient temperature for 3 hours until hydrogen uptake ceased. The Pt was removed by filtration and the filtrate concentrated to an oil comprising 1.1 g. The oil was dissolved in water and cooled overnight to afford 0.9 g (64%) of dl-desthiobiotin identical in all respects to authentic material.

reactant | 4-methyl-5-(5-carboxypentanoyl)-4-imidazolin-2-one | 6.63 mmol, 1.5 g | CC=1NC(NC1C(CCCCC(=O)O)=O)=O | C10H14N2O4
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | PtO2 | 0.4 g | O=[Pt]=O
product | dl-desthiobiotin | 0.9 g, 64% | CC1C(NC(=O)N1)CCCCCC(=O)O | C10H18N2O3
